US05817693
b) (1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carbonitrile
To ice-cold DMF (1 ml) under an argon atmosphere was added oxalyl chloride (68 ml, 0.78 mmol). After stirring for 5 min at 0° C., a solution of (1RS,2SR,3SR)-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxamide (150 mg, 0.39 mmol) in DMF (2 ml) was added, and stirring was continued for an additional 10 min at 0° C. The reaction mixture was partitioned between EtOAc and 3M HCl. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed successively with H2O, aqueous NaHCO3, H2O and saturated aqueous NaCl and dried. The solvent was removed in vacuo to afford the title compound as a white solid (135 mg, 94%) which was used without further purification.

reactant | oxalyl chloride | 0.78 mmol, 68 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1RS,2SR,3SR)-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxamide | 0.39 mmol, 150 mg | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)N | C24H21NO4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carbonitrile | 135 mg, 94% | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C#N | C24H19NO3
